US06949552B2
0.11 g of 1-[2-(4-Fluorophenyl)-2-(1-isopropylpiperidin-4-yl)ethyl]-4-[4-(2-methoxy-naphthalen-1-yl)butyl]piperazine was dissolved in 4 ml of methanol, and 1 ml of 4M hydrogen chloride/ethyl acetate solution was added. The solution was concentrated under reduced pressure, and the resulting solid was washed with ethyl acetate to give 0.12 g of 1-[2-(4-fluorophenyl)-2-(1-isopropylpiperidin-4-yl)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]-piperazine trihydrochloride.

reactant | 1-[2-(4-Fluorophenyl)-2-(1-isopropylpiperidin-4-yl)ethyl]-4-[4-(2-methoxy-naphthalen-1-yl)butyl]piperazine | 0.11 g | FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)C1CCN(CC1)C(C)C | C35H48FN3O
reactant | hydrogen chloride ethyl acetate | 4M, 1 ml | Cl.C(C)(=O)OCC
solvent | methanol | 4 ml | CO | CH4O
product | 1-[2-(4-fluorophenyl)-2-(1-isopropylpiperidin-4-yl)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]-piperazine trihydrochloride | 0.12 g | Cl.Cl.Cl.FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)C1CCN(CC1)C(C)C | InChI=1S/C35H48FN3O.3ClH/c1-27(2)39-20-17-30(18-21-39)34(29-11-14-31(36)15-12-29)26-38-24-22-37(23-25-38)19-7-6-10-33-32-9-5-4-8-28(32)13-16-35(33)40-3;;;/h4-5,8-9,11-16,27,30,34H,6-7,10,17-26H2,1-3H3;3*1H
